US09359375B2
(R)-4-(1-amino-4-methyl-1-oxopentan-2-ylamino)-2-fluoro-6-(3-methylisothiazol-5-ylamino)benzamide
To a solution of (R)-2-(4-cyano-3-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-4-methylpentanamide (38 mg, 0.105 mmol) in EtOH (1 mL) and DMSO (0.5 mL), 1N aq. NaOH (0.4 mL) and H2O2 (50% aq., 0.4 mL) were added. After being stirred at room temperature for 1 h, the mixture was concentrated in vacuo. The residue was acidified with HOAc (0.5 mL), and then was purified by HPLC to give the titled compound (18 mg). MS 380.3 (M+H); UV 221.1, 282.9, 297.7 nm

reactant | (R)-2-(4-cyano-3-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-4-methylpentanamide | 0.105 mmol, 38 mg | C(#N)C1=C(C=C(C=C1NC1=CC(=NS1)C)N[C@@H](C(=O)N)CC(C)C)F | C17H20FN5OS
reactant | EtOH | 1 mL | CCO | C2H6O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | NaOH | 1N, 0.4 mL | [OH-].[Na+]
solvent | H2O2 | 0.4 mL | OO | H2O2
product | (R)-4-(1-amino-4-methyl-1-oxopentan-2-ylamino)-2-fluoro-6-(3-methylisothiazol-5-ylamino)benzamide | 18 mg | NC([C@@H](CC(C)C)NC1=CC(=C(C(=O)N)C(=C1)NC1=CC(=NS1)C)F)=O | C17H22FN5O2S
